### PR TITLE
[Merged by Bors] - feat(UniformConvergenceTopology): prove `CompleteSpace`

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #10784

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 1]
```diff
@@ -936,6 +960,28 @@ protected lemma continuous_rng_iff {X : Type*} [TopologicalSpace X] {f : X → (
...
+    use ofFun 𝔖 g
+    rw [← tendsto_id', UniformOnFun.tendsto_iff_tendstoUniformlyOn, toFun_ofFun]
+    intro s hs
+    rw [tendstoUniformlyOn_iff_tendsto, uniformity_hasBasis_closed.tendsto_right_iff]
+    rintro U ⟨hU, hUc⟩
+    rcases mem_prod_self_iff.1 <| hF.2 <| UniformOnFun.gen_mem_uniformity _ _ hs hU
+      with ⟨V, hV, hVU⟩
+    filter_upwards [prod_mem_prod hV (mem_principal_self _)] with ⟨f, x⟩ ⟨hf, hx⟩
+    refine hUc.mem_of_tendsto ((hg x ⟨s, hs, hx⟩).prod_mk_nhds tendsto_const_nhds) ?_
+    filter_upwards [hV] with g' hg' using hVU (mk_mem_prod hg' hf) _ hx
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:983]:
```suggestion
instance [CompleteSpace β] : CompleteSpace (α →ᵤ[𝔖] β) := by
  rcases isEmpty_or_nonempty β
  · infer_instance
  · refine ⟨fun {F} hF ↦ ?_⟩
    have := hF.1
    have : ∀ x ∈ ⋃₀ 𝔖, ∃ y : β, Tendsto (toFun 𝔖 · x) F (𝓝 y) := fun x hx ↦
      CompleteSpace.complete (hF.map (uniformContinuous_eval_of_mem_sUnion _ _ hx))
    choose! g hg using this
    use ofFun 𝔖 g
    simp_rw [UniformOnFun.nhds_eq_of_basis _ _ uniformity_hasBasis_closed, le_iInf₂_iff,
      le_principal_iff]
    intro s hs U ⟨hU, hUc⟩
    rcases cauchy_iff.mp hF |>.2 _ <| UniformOnFun.gen_mem_uniformity _ _ hs hU
      with ⟨V, hV, hVU⟩
    filter_upwards [hV] with f hf x hx
    refine hUc.mem_of_tendsto ((hg x ⟨s, hs, hx⟩).prod_mk_nhds tendsto_const_nhds) ?_
    filter_upwards [hV] with g' hg' using hVU (mk_mem_prod hg' hf) _ hx
```

**Review by ADedecker — APPROVED** [review]
bors d+

**Comment by urkud** [comment]
bors merge
